US05082856
To dry dimethylformamide (DMF) (15 ml) was added 0.84 g (21 mmol) of sodium hydride (60% oil dispersion), and then 2.78 g (20 mmol) of ethyl pyrrole-3-carboxylate was added portionwise thereto under ice-cooling. After stirring at room temperature for 10 minutes, 6.65 g (24 mmol) of bromotetradecane was added dropwise under ice-cooling. The mixture was stirred for 3.5 hours at room temperature, and then 30 ml of water was added thereto. The resulting mixture was extracted with 70 ml of ethyl acetate, washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After removing the solvent, the remaining oil was purified by subjecting it to column chromatography over silica gel (eluent: ethyl acetate/hexane=1/20-1/10) to obtain 6.33 g (89.0% yield) of ethyl 1-tetradecylpyrrole-3-carboxylate as white crystals, m.p. 32°-33° C.

reactant | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 21 mmol, 0.84 g | [H-].[Na+]
reactant | ethyl pyrrole-3-carboxylate | 20 mmol, 2.78 g | N1C=C(C=C1)C(=O)OCC | C7H9NO2
reactant | bromotetradecane | 24 mmol, 6.65 g | BrCCCCCCCCCCCCCC | C14H29Br
solvent | water | 30 ml | O | H2O
product | ethyl 1-tetradecylpyrrole-3-carboxylate | 6.33 g, 89.0% yield | C(CCCCCCCCCCCCC)N1C=C(C=C1)C(=O)OCC | C21H37NO2
